US06864265B2
8-amino-4-methoxy-5,6,7,8-tetrahydroquinoline was prepared in 68% yield from 8-hydroxy-4-methoxy-5,6,7,8-tetrahydroquinoline (preparation and characterization described by: Uchida, M.; Morita, S.; Chihiro, M.; Kanbe, T.; Yamasaki, K.; Yabuuchi, Y.; Nakagawa, K. Chem. Pharm. Bull. 1989, 37, 1517-1523) using the same procedure employed to prepare 8-amino-5,6,7,8-tetrahydroquinoline (see Bridger et al. PCT International Application PCT/CA00/00321). 1H NMR (CDCl3) □1.59-2.15 (m, 6H), 2.60-2.65 (m, 2H), 3.84. (s, 3H), 3.95 (dd, 1H, J=6.0, 9.0 Hz), 6.61 (d, 1H, J=6.0 Hz). 8.32 (d, 1H, J=6.0 Hz); 13C NMR (CDCl3) □19.53, 22.89, 31.94, 51.57, 55.62, 104.04, 120.94, 148.52, 160.42, 163.71; ES-MS m/z 179 (M+H).

reactant | 8-hydroxy-4-methoxy-5,6,7,8-tetrahydroquinoline | OC1CCCC=2C(=CC=NC12)OC | C10H13NO2
reactant | 8-amino-5,6,7,8-tetrahydroquinoline | NC1CCCC=2C=CC=NC12 | C9H12N2
product | 8-amino-4-methoxy-5,6,7,8-tetrahydroquinoline | 68% yield | NC1CCCC=2C(=CC=NC12)OC | C10H14N2O
